US04980470
Synthesis of 1-cyclopropyl-7-(3-ethylaminomethyl-1-pyrrolidinyl)-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid
A mixture of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid (200 mg), 3-ethylaminomethylpyrrolidine (100 mg), DBU (110 mg) and anhydrous acetonitrile (3 ml) was refluxed for 6 hours. After cooling, the resulting precipitate was collected by filtration and recrystallized from methanol to give the title compound (120 mg) as colorless prisms, mp 217°-219° C.

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 200 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)F)F)=O)C(=O)O | C14H11F2NO4
reactant | 3-ethylaminomethylpyrrolidine | 100 mg | C(C)NCC1CNCC1 | C7H16N2
reactant | DBU | 110 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 1-cyclopropyl-7-(3-ethylaminomethyl-1-pyrrolidinyl)-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 120 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)N1CC(CC1)CNCC)F)=O)C(=O)O | C21H26FN3O4
